US07276113B2
One hundred grams of sericite was added to 450 ml of water and mixed using a home type mixer until well dispersed. Four grams of sodium N-myristoyl-L-glutamate having an HLB value of 4, was dissolved in 50 ml of water heated at 60° C. then added to the above mixture and mixed for 10 minutes. While this was being stirred, 2 chemical equivalents of aluminum chloride aqueous solution, based on the sodium N-myristoyl-L-glutamate, was added dropwise. Four grams of glycerin having an HLB value of 20 was dissolved in 50 ml of water heated at 50° C. then added to the above mixture and mixed for 10 minutes. The product was filtered with suction using a Buchner funnel, followed by rinsing with purified water. The filter cake was then baked in an over for two hours after the filter cake reached a temperature of 100° C. to further dehydrate the filter cake. The cake was crushed and pulverized to a powder after cooling. This resulted in sericite pigment chemically immobilized with aluminum N-myristoyl-L-glutamate; the glycerin did not chemically immobilize itself to the pigment, but instead was washed away.

reactant | sodium N-myristoyl-L-glutamate | Four grams | C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Na+].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | glycerin | Four grams | OCC(O)CO | C3H8O3
solvent | water | 50 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 450 ml | O | H2O
product | aluminum N-myristoyl-L-glutamate | C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Al+3].C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].C(CCCCCCCCCCCCC)(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-].[Al+3] | InChI=1S/3C19H35NO5.2Al/c3*1-2-3-4-5-6-7-8-9-10-11-12-13-17(21)20-16(19(24)25)14-15-18(22)23;;/h3*16H,2-15H2,1H3,(H,20,21)(H,22,23)(H,24,25);;/q;;;2*+3/p-6/t3*16-;;/m000../s1
